US08685970B2
A solution of N-(2-(3-formylphenyl)quinolin-8-yl)thiazole-4-carboxamide (54 mg, 0.150 mmol) and morpholine (37 μL, 0.450 mmol) in a mixture of THF (4 mL) and Ethanol (8 mL) was added Na(OAc)3BH (95 mg, 0.450 mmol). The reaction was stirred 18 hours, and NaBH4 (17 mg, 3 eq) and acetic acid (500 uL) and the reaction was stirred for 2 hours. The reaction was quenched with water/methanol mixture, concentrated to dryness, and diluted with CH2Cl2. The resulting solution was washed with 1N NaOH, water, brine, dried (Na2SO4) and concentrated. The crude material was purified by silica gel column chromatography (0 to 10% methanol gradient in CH2Cl2 modified with 0.1% triethylamine). The product was lyophilized in a mixture of acetonitrile/water to obtain N-(2-(3-(morpholinomethyl)phenyl)quinolin-8-yl)thiazole-4-carboxamide (46 mg, 71% yield). MS (ESI) calcd for C24H22N4O2S (m/z): 430.15. found: 431 [M+1].

reactant | N-(2-(3-formylphenyl)quinolin-8-yl)thiazole-4-carboxamide | 0.150 mmol, 54 mg | C(=O)C=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)NC(=O)C=1N=CSC1 | C20H13N3O2S
reactant | morpholine | 0.450 mmol, 37 μL | N1CCOCC1 | C4H9NO
reactant | Na(OAc)3BH | 0.450 mmol, 95 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH4 | 17 mg, 3 eq | [BH4-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | Ethanol | 8 mL | C(C)O | C2H6O
solvent | acetic acid | 500 uL | C(C)(=O)O | C2H4O2
product | N-(2-(3-(morpholinomethyl)phenyl)quinolin-8-yl)thiazole-4-carboxamide | 46 mg, 71% yield | O1CCN(CC1)CC=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)NC(=O)C=1N=CSC1 | C24H22N4O2S
